US04460770
A mixture of 567 mg of trans-4-[2-(p-pentylphenyl)ethyl]cyclohexanecarbonitrile and 20 ml of a 10:1 mixture of 2N potassium hydroxide and ethanol was heated to reflux for 2 hours while gassing with argon in a round flask fitted with a reflux condenser. The cooled mixture was diluted with 20 ml of water and extracted twice with 30 ml of diethyl ether each time. The separated aqueous phase was acidified with about 20 ml of 2N sulphuric acid and extracted three times with 50 ml of diethyl ether each time. The organic phases were washed twice with 50 ml of saturated sodium chloride solution each time, dried over magnesium sulphate and concentrated. There were obtained 490 mg (81%) of trans-4-[2-(p-pentylphenyl)ethyl]cyclohexanecarboxylic acid as colourless crystals which were purified further by recrystallization from hexane.

reactant | trans-4-[2-(p-pentylphenyl)ethyl]cyclohexanecarbonitrile | 567 mg | C(CCCC)C1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)C#N | C20H29N
reactant | potassium hydroxide | 2N | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | trans-4-[2-(p-pentylphenyl)ethyl]cyclohexanecarboxylic acid | 490 mg, 81% | C(CCCC)C1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)C(=O)O | C20H30O2
